US04467098
108 g (1 mol) of phenyl hydrazine and 60 g (1 mol) of urea were suspended in 500 ml of xylene and 111 g (1 mol) of concentrated sulfuric acid were added while stirring vigorously. The mixture was heated for 2.5 hours at 135° C. and water formed was separated via a water separator. After cooling to 90° C. 135.2 g (2.5 mols) of 85% formic acid and 25 g (0.25 mol) of concentrated sulfuric acid were added successively and the mixture was further heated for 6 hours at 95° C. After cooling, the product was filtered off, washed thoroughly with water until free from acid and dried in vacuo at 100° C. There were obtained 124.6 g (77.5% of the theory) of 1-phenyl-3-hydroxy-1,2,4-triazole having a melting point of 281°-282° C.

reactant | phenyl hydrazine | 1 mol, 108 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | urea | 1 mol, 60 g | NC(=O)N | CH4N2O
reactant | sulfuric acid | 1 mol, 111 g | S(O)(O)(=O)=O | H2O4S
reactant | formic acid | 2.5 mols, 135.2 g | C(=O)O | CH2O2
reactant | sulfuric acid | 0.25 mol, 25 g | S(O)(O)(=O)=O | H2O4S
solvent | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 1-phenyl-3-hydroxy-1,2,4-triazole | C1(=CC=CC=C1)N1N=C(N=C1)O | C8H7N3O
